US05852017
b) Preparation of 2-cyclohexylamino-5-trifluoromethylaniline
32 g (0.11 mol) of N-cyclohexyl-2-nitro-4-trifluoromethylaniline dissolved in 250 ml of methanol were hydrogenated under a pressure of about 1 bar of hydrogen in the presence of 1.5 g of palladium/active carbon (10% by weight Pd) at room temperature. The reaction mixture was filtered. Conventional workup of the filtrate gave a 100% yield of the abovementioned compound.

reactant | N-cyclohexyl-2-nitro-4-trifluoromethylaniline | 0.11 mol, 32 g | C1(CCCCC1)NC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C13H15F3N2O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | 250 ml | CO | CH4O
catalyst | palladium | 1.5 g | [Pd] | Pd
product | 2-cyclohexylamino-5-trifluoromethylaniline | 100% yield | C1(CCCCC1)NC1=C(N)C=C(C=C1)C(F)(F)F | C13H17F3N2
